US07138414B2
d) 1-(2-chloro-4,5-difluorobenzoyl)-3-[2-chloro-5-(5-methyl-4H-[1,2,4]triazol-3-yl)phenyl]urea
The solution of equivalent amounts of 2-chloro-4,5-difluorobenzoyl isocyanate was added dropwise to the solution of 85 mg of 3-(3-amino-4-chlorophenyl)-5-methyl-4H-1,2,4-triazole in 8 ml of acetonitrile and the mixture was stirred at room temperature for 2 hours. The solid formed is then filtered off with suction and dried under reduced pressure.

reactant | 2-chloro-4,5-difluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=C(C(=C1)F)F | C8H2ClF2NO2
reactant | 3-(3-amino-4-chlorophenyl)-5-methyl-4H-1,2,4-triazole | 85 mg | NC=1C=C(C=CC1Cl)C1=NN=C(N1)C | C9H9ClN4
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 1-(2-chloro-4,5-difluorobenzoyl)-3-[2-chloro-5-(5-methyl-4H-[1,2,4]triazol-3-yl)phenyl]urea | ClC1=C(C(=O)NC(=O)NC2=C(C=CC(=C2)C2=NN=C(N2)C)Cl)C=C(C(=C1)F)F | C17H11Cl2F2N5O2
